US07767675B2
Step 2. 4-(3-bromoimidazo[1,2-a]pyrimidin-6-yl)-2-fluoro-N-methylbenzamide
Bromine (17.4 μL, 0.338 mmol) was added to a mixture of sodium acetate (40.3 mg, 0.491 mmol) and 2-fluoro-4-imidazo[1,2-a]pyrimidin-6-yl-N-methylbenzamide (83.0 mg, 0.307 mmol) in acetic acid (2.6 mL) and the reaction mixture was stirred at ambient temperature for 30 min. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel with ethyl acetate in dichloromethane (0-50%) to afford the desired product (95 mg, 88.6%). LCMS: (M+H)=348.8/350.9.

reactant | Bromine | 0.338 mmol, 17.4 μL | BrBr | Br2
reactant | sodium acetate | 0.491 mmol, 40.3 mg | C(C)(=O)[O-].[Na+]
reactant | 2-fluoro-4-imidazo[1,2-a]pyrimidin-6-yl-N-methylbenzamide | 0.307 mmol, 83.0 mg | FC1=C(C(=O)NC)C=CC(=C1)C=1C=NC=2N(C1)C=CN2 | C14H11FN4O
solvent | acetic acid | 2.6 mL | C(C)(=O)O | C2H4O2
product | 4-(3-bromoimidazo[1,2-a]pyrimidin-6-yl)-2-fluoro-N-methylbenzamide | 95 mg, 88.6% | BrC1=CN=C2N1C=C(C=N2)C2=CC(=C(C(=O)NC)C=C2)F | C14H10BrFN4O
